US07049444B2
3-Hexyl-6-(3-iodophenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one
A solution of sodium nitrite (0.25 g, 3.6 mmol) dissolved in water (4 ml) was added to 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine (Preparation 12, 0.43 g, 1.6 mmol) dissolved in aqueous hydrochloric acid (2.0 M, 4 ml) at 0° C. After 15 min at 0° C., the reaction mixture was added to potassium iodide (0.61 g, 3.69 mmol) in water (4 ml) at 0° C. with rapid stirring. The reaction mixture was stirred for 30 min at room temperature and was then heated to 90° C. for 5 min. The reaction mixture was cooled to room temperature and then poured cautiously onto solid sodium hydrogen carbonate with cooling. After 12 h, the reaction mixture was extracted with diethyl ether and then ethyl acetate and the combined organic extracts were washed with aqueous sodium thiosulphate solution, dried (MgSO4) and then concentrated in vacuo. The crude residue was purified by chromatography on silica gel eluting with hexane: ethyl acetate (10:1 and then 3:1) to give the title compound (0.18 g, 24%).

reactant | sodium nitrite | 3.6 mmol, 0.25 g | N(=O)[O-].[Na+]
reactant | 3-(3-hexyl-6-methyl-3-azabicyclo[3.1.0]hex-6-yl)phenylamine | 1.6 mmol, 0.43 g | C(CCCCC)N1CC2C(C2C1)(C)C=1C=C(C=CC1)N | C18H28N2
reactant | potassium iodide | 3.69 mmol, 0.61 g | [I-].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 4 ml | O | H2O
solvent | hydrochloric acid | 2.0 M, 4 ml | Cl | ClH
solvent | water | 4 ml | O | H2O
product | 3-Hexyl-6-(3-iodophenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 0.18 g, 24% | C(CCCCC)N1C(C2C(C2C1)(C)C1=CC(=CC=C1)I)=O | C18H24INO
